US08809352B2
(R)-4-(4-(dimethylamino)-1-(phenylthio)butan-2-ylamino)-3,5-difluorobenzenesulfonamide
The title compound was prepared from 3,4,5-trifluorobenzenesulfonamide and (R)—N1,N1-dimethyl-4-phenylsulfanyl-butane-1,3-diamine using the procedure described for Intermediate 4.

reactant | 3,4,5-trifluorobenzenesulfonamide | FC=1C=C(C=C(C1F)F)S(=O)(=O)N | C6H4F3NO2S
reactant | (R)—N1,N1-dimethyl-4-phenylsulfanyl-butane-1,3-diamine | CN(CC[C@H](CSC1=CC=CC=C1)N)C | C12H20N2S
product | (R)-4-(4-(dimethylamino)-1-(phenylthio)butan-2-ylamino)-3,5-difluorobenzenesulfonamide | CN(CC[C@H](CSC1=CC=CC=C1)NC1=C(C=C(C=C1F)S(=O)(=O)N)F)C | C18H23F2N3O2S2
